US09358222B2
2-(4-(Aminomethyl)benzonitrile)-3-(4-chlorophenyl)-3-hydroxyisoindolin-1-one
Distilled THF (25 mL) was added to 3-chloro-3-(4-chlorophenyl)-3H-isobenzofuran-1-one (1.071 g, 3.84 mmol) followed by triethylamine (777.14 mg, 7.68 mmol, 1.07 mL) and 4-(aminomethyl)benzonitrile (507.6 mg, 3.84 mmol). The mixture was stirred at room temperature under nitrogen for 4 hours and monitored by TLC. Upon completion the mixture was then extracted with EtOAc (15 mL) and washed with saturated sodium bicarbonate (3×10 mL), water (3×10 mL) and dried (Na2SO4). Removal of solvent after washing produced a viscous orange oil. Trituration under petrol yielded a yellow/orange solid which was recrystallised from a minimum amount of boiling ethyl acetate and excess petrol to produce the title product as a fine pale yellow crystalline solid (665 mg, 1.83 mmol, 50%). 1H NMR: (300 MHz, DMSO) δ ppm 4.31 (d, 2H, J=16.12 Hz, H9), 4.55 (d, 2H J=16.15 Hz, H9′), 7.26 (m, 5H, H1-H5), 7.37 (d, 2H J=8.29 Hz, H10, H13), 7.58 (m, 2H, H6-H7), 7.64 (d, 2H J=8.26 Hz, H11-H12), 7.77 (d, 1H, H8). 13C NMR: (75 Hz, DMSO); δ 42.51 (N—CH2), 60.02 (CN) 90.57 (O—C—N), 109.82, 119.08, 123.06, 123.25, 128.40, 128.62, 129.16, 129.83, 130.54, 132.03, 133.19, 133.26, 133.52, 139.19, 144.24, 149.48 (Ar), 167.23 (C═O). IR: 1397, 1655, 2227 cm−1.

reactant | 3-chloro-3-(4-chlorophenyl)-3H-isobenzofuran-1-one | 3.84 mmol, 1.071 g | ClC1(OC(C2=CC=CC=C12)=O)C1=CC=C(C=C1)Cl | C14H8Cl2O2
reactant | triethylamine | 7.68 mmol, 1.07 mL, 777.14 mg | C(C)N(CC)CC | C6H15N
reactant | 4-(aminomethyl)benzonitrile | 3.84 mmol, 507.6 mg | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | 2-(4-(Aminomethyl)benzonitrile)-3-(4-chlorophenyl)-3-hydroxyisoindolin-1-one | 1.83 mmol, 665 mg, 50% | C1=CC=C2C(=C1)C(=O)N(C2(C3=CC=C(C=C3)Cl)O)CC4=CC=C(C=C4)C#N | C22H15ClN2O2
